US04940482
A mixture of 1.218 g of 2-methoxycarbonylphenylsulfonyl isocyanate, 0.7 g of 3-amino-1,6-dimethylpyrazin-2-one and 15 ml of absolute dioxane is refluxed for 3 hours. The reaction mixture is evaporated to dryness and the residue is crystallized by treatment with acetone. 0.9 g of 3-[3-(2-methoxycarbonylphenylsulfonyl)-ureido]-1,6-dimethylpyrazin-2-one with a melting point of 192°-193° C. are thus obtained.

reactant | 2-methoxycarbonylphenylsulfonyl isocyanate | 1.218 g | COC(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C9H7NO5S
reactant | 3-amino-1,6-dimethylpyrazin-2-one | 0.7 g | NC=1C(N(C(=CN1)C)C)=O | C6H9N3O
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 3-[3-(2-methoxycarbonylphenylsulfonyl)-ureido]-1,6-dimethylpyrazin-2-one | 0.9 g | COC(=O)C1=C(C=CC=C1)S(=O)(=O)NC(NC=1C(N(C(=CN1)C)C)=O)=O | C15H16N4O6S
